US04318913
N-Cyano-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioic acid, methyl ester
A mixture of cyanocarbonimidodithioic acid dimethyl ester (1.46 g) and benzaldehyde N-methyl hydrazone (1.34 g) in acetonitrile was heated under reflux for 50 hr. The reaction mixture was cooled to 25° to give the title compound as colourless crystals, m.p. 132°-133° (0.73 g).

reactant | cyanocarbonimidodithioic acid dimethyl ester | 1.46 g | CSC(=NC#N)SC | C4H6N2S2
reactant | benzaldehyde N-methyl hydrazone | 1.34 g | CNN=CC1=CC=CC=C1 | C8H10N2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Cyano-1-methyl-2-(phenylmethylene)hydrazinecarboximidothioic acid, methyl ester | C(#N)N=C(SC)N(N=CC1=CC=CC=C1)C | C11H12N4S
